US09216173B2
N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide (PrepEx 1.11) (50 mg, 0.091 mmol), tert-butyl (3-aminopropyl)carbamate (32 mg, 0.18 mmol), tris(dibenzylideneacetone)dipalladium(0) (8 mg, 0.01 mmol), Xantphos (11 mg, 0.018 mmol), and cesium carbonate (66 mg, 0.20 mmol) were combined in a dry flask and purged with argon for 5 minutes. To this mixture was added 1,4-dioxane (0.75 mL), and the reaction mixture was deoxygenated by flushing it with argon for 5 minutes. The reaction mixture was heated to 95° C. After 6 hours, the reaction mixture was cooled, diluted with ethyl acetate (50 mL), filtered through CELITE, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-60% ethyl acetate/hexanes, linear gradient) to afford tert-butyl {3-[(6-{[bis(4-methoxyphenyl)methyl]carbamoyl}-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl)amino}propyl]carbamate. MS ESI calc'd. for C36H45N6O5 [M+H]+ 641. found 641. 1H NMR (500 MHz, DMSO-d6) δ 11.48 (s, 1H), 8.70 (d, J=8.5 Hz, 1H), 8.51 (d, J=2.5 Hz, 1H), 7.53 (d, J=2.0 Hz, 1H), 7.22 (d, J=8.5 Hz, 4H), 6.92-6.84 (m, 5H), 6.64-6.60 (m, 1H), 6.57 (s, 1H), 6.45 (s, 1H), 6.11 (d, J=8.5 Hz, 1H), 3.71 (s, 6H), 3.12-3.05 (m, 2H), 3.04-2.97 (m, 2H), 2.35 (s, 3H), 2.18 (s, 3H), 1.74-1.66 (m, 2H), 1.32 (s, 9H).

reactant | N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | 0.091 mmol, 50 mg | COC1=CC=C(C=C1)C(NC(=O)C1=NC=C(C=C1NC1=NC(=CC(=C1)C)C)Br)C1=CC=C(C=C1)OC | C28H27BrN4O3
reactant | tert-butyl (3-aminopropyl)carbamate | 0.18 mmol, 32 mg | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | Xantphos | 0.018 mmol, 11 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.20 mmol, 66 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl {3-[(6-{[bis(4-methoxyphenyl)methyl]carbamoyl}-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl)amino}propyl]carbamate | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC(=O)C1=C(C=C(C=N1)NCCCNC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C36H44N6O5
